US04689330
To a stirred mixture of 8.3 parts of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-N'-(4-methoxyphenyl)thiourea, 60 parts of trichloromethane and 240 parts of tetrachloromethane were added at once 3.1 parts of bromine. The whole was stirred and refluxed for 1 hour. After cooling, the reaction mixture was treated with a sodium hydroxide solution. The organic layer was separated, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 1,1'-oxybisethane and 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.7 parts (21.0%) of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-6-methoxy-2-benzothiazolamine; mp. 134.7° C. (compound 68).

reactant | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-N'-(4-methoxyphenyl)thiourea | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC(=S)NC2=CC=C(C=C2)OC | C23H29N3O3S
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | bromine | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
product | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-6-methoxy-2-benzothiazolamine | 21.0% | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC=2SC1=C(N2)C=CC(=C1)OC | C23H27N3O3S
